US07776857B2
Step 2: 4-amino-3-bromo-2-methoxypyridine
Methanol (350 mL) was charged in a two-neck RBF equipped with a guard tube and septum and cooled to 0° C. Sodium metal (23 g) was added to it slowly in pieces. After all sodium metal had dissolved, 4-amino-3-bromo-2-chloro pyridine (23 g, 178 mmol) was added and the solution was heated at 180° C. in a pressure vessel for 5-6 h. The reaction mixture was then cooled to 0° C. and adjusted to pH 8 by addition of conc. HCl. Solvent was removed under reduced pressure and the residue was suspended in ethyl acetate. Undissolved impurities were removed by filtration and the filtrate was concentrated under reduced pressure to obtain pure product.

reactant | Sodium | 23 g | [Na] | Na
reactant | 4-amino-3-bromo-2-chloro pyridine | 178 mmol, 23 g | NC1=C(C(=NC=C1)Cl)Br | C5H4BrClN2
reactant | HCl | Cl | ClH
reactant | Methanol | 350 mL | CO | CH4O
product | 4-amino-3-bromo-2-methoxypyridine | NC1=C(C(=NC=C1)OC)Br | C6H7BrN2O
